US06538152B1
To a solution of 3′,4′-dihydroxyacetophenone (2.00 g) in N,N-dimethylformamide (40 ml) were added lithium carbonate (2.44 g) and benzyl bromide (4.0 ml), and the mixture was stirred for 14.5 hours at 50° C. To the reaction mixture was added 1N hydrochloric acid, and the resulting mixture was extracted with a mixed solution of diethyl ether and ethyl acetate (3/1). The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=4/1) gave 4′-benzyloxy-3′-hydroxyacetophenone (2.00 g). To a stirred solution of the obtained 4′-benzyloxy-3′-hydroxyacetophenone (2.00 g) in dichloromethane (25 ml) was added N,N-diisopropylethylamine (2.2 ml) under ice-cooling, and the mixture was stirred for 10 minutes. Chloromethylmethyl ether (1.2 ml) was added to the mixture, and the resulting mixture was stirred for 5.5 hours at room temperature. The reaction mixture was poured into a saturated aqueous ammonium chloride solution and extracted with dichloromethane. The extract was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=3/1) gave 4′-benzyloxy-3′-methoxymethoxyacetophenone (2.28 g).

reactant | 4′-benzyloxy-3′-hydroxyacetophenone | 2.00 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)O | C15H14O3
reactant | N,N-diisopropylethylamine | 2.2 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Chloromethylmethyl ether | 1.2 ml | ClCOC | C2H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4′-benzyloxy-3′-methoxymethoxyacetophenone | 2.28 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)OCOC | C17H18O4
